US07482374B2
2-{[3-(Methyloxy)-1-azetidinyl]methyl}-1H-imidazole (GSK222768A)
The title compound was prepared from 2-imidazolecarboxaldehyde and 3-methoxyazetidine hydrochloride using the synthetic procedure described for Intermediate 5.

reactant | 2-imidazolecarboxaldehyde | N1C(=NC=C1)C=O | C4H4N2O
reactant | 3-methoxyazetidine hydrochloride | Cl.COC1CNC1
product | 2-{[3-(Methyloxy)-1-azetidinyl]methyl}-1H-imidazole | COC1CN(C1)CC=1NC=CN1 | C8H13N3O
